US05891902
N-Diphenylmethyl-N-[3-(2-oxopyrrolidinyl)propyl]-1-benzenesulfonylindole-2-sulfonamide
Substantially the same procedure as in Reference Example 36 was repeated using N-[3-(2-oxopyrrolidinyl)propyl]-1-benzenesulfonylindole-2-sulfonamide (10.0 g, 21.67 mmol) and benzhydrol (6.00 g, 32.50 mmol) to give 4.85 g (yield: 36%) of the title compound.

reactant | N-[3-(2-oxopyrrolidinyl)propyl]-1-benzenesulfonylindole-2-sulfonamide | 21.67 mmol, 10.0 g | O=C1N(CCC1)CCCNS(=O)(=O)C=1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=CC=C1 | C21H23N3O5S2
reactant | benzhydrol | 32.50 mmol, 6.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
product | N-Diphenylmethyl-N-[3-(2-oxopyrrolidinyl)propyl]-1-benzenesulfonylindole-2-sulfonamide | 4.85 g, yield: 36% | C1(=CC=CC=C1)C(N(S(=O)(=O)C=1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=CC=C1)CCCN1C(CCC1)=O)C1=CC=CC=C1 | C34H33N3O5S2
